US04752608
To 6-n-butyl-2-picoline amidine hydrochloride (3 g) were added sodium ethoxide solution in ethanol prepared from ethanol (100 ml) and metallic sodium (0.65 g) and then 1,1-dimethoxy-3-butanone (purity 90 %, 2.16 g). The mixture was heated under refluxing for three hours, and was left to stand at room temperature. After acetic acid was added into the mixture to be weak acidic condition, the mixture was concentrated under reduced pressure. The residue was dissolved in chloroform (200 ml), followed by washing with water (50 ml) and drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue obtained was subjected to silica gel column chromatography (eluent; hexane:acetone=2:1) to obtain 2-(6-n-butyl-2-pyridinyl)-4-methylpyrimidine (2.17 g, yield: 68 %).

reactant | 6-n-butyl-2-picoline amidine hydrochloride | 3 g | Cl.C(CCC)C1=CC=CC(=N1)C(=N)N
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.65 g | [Na] | Na
reactant | 1,1-dimethoxy-3-butanone | 2.16 g | COC(CC(C)=O)OC | C6H12O3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(6-n-butyl-2-pyridinyl)-4-methylpyrimidine | 2.17 g, yield: 68 % | C(CCC)C1=CC=CC(=N1)C1=NC=CC(=N1)C | C14H17N3
